US05234917
The procedure of Example 12 (ii-iii) was followed using L-phenylalanine methyl ester hydrochloride in place of glycine methyl ester hydrochloride. From 5.59 g (16.3 mmol) of 2-[2-n-butyl-1-{(2-chlorophenyl)methyl}-1H-imidazol-5-yl]acetic acid hydrochloride, there was obtained 6.88 g (90%) of the intermediate N-[{2-n-butyl-1-(2-chlorophenyl)methyl-1H-imidazol-5-yl}methylcarbonyl]-L-phenylalanine methyl ester; mp 88°-90° C. (from ethanol/water). Hydrolysis of this ester provided the title compound in a 79% yield; mp 168°-170° C.; [α]25 (c=1, methanol).

reactant | L-phenylalanine methyl ester hydrochloride | Cl.COC([C@@H](N)CC1=CC=CC=C1)=O
reactant | N-[{2-n-butyl-1-(2-chlorophenyl)methyl-1H-imidazol-5-yl}methylcarbonyl]-L-phenylalanine methyl ester | COC([C@@H](NC(=O)CC1=CN=C(N1CC1=C(C=CC=C1)Cl)CCCC)CC1=CC=CC=C1)=O | C26H30ClN3O3
product | 2-[2-n-butyl-1-{(2-chlorophenyl)methyl}-1H-imidazol-5-yl]acetic acid hydrochloride | 16.3 mmol, 5.59 g | Cl.C(CCC)C=1N(C(=CN1)CC(=O)O)CC1=C(C=CC=C1)Cl | InChI=1S/C16H19ClN2O2.ClH/c1-2-3-8-15-18-10-13(9-16(20)21)19(15)11-12-6-4-5-7-14(12)17;/h4-7,10H,2-3,8-9,11H2,1H3,(H,20,21);1H
